US07517878B2
Preparation of 2-{[3-(1,1-dimethylpropyl)-1-(3-fluoro-2-methoxyphenyl)-1H-Pyrazol-5-yl]amino}-N,N-dimethylnicotinamide
To a solution 2-{[3-(1,1-dimethylpropyl)-1-(3-fluoro-2-methoxyphenyl)-1H-pyrazol-5-yl]amino}nicotinic acid, (Example 140, synthesized in a manner similar to that of Example 8, 50 mg, 0.13 mmol) in CH3CN (1 mL) was added 1 drop of dimethyl formamide followed by oxalyl chloride (9 μL, 0.13 mmol). The mixture was stirred at rt for 1 h, followed by addition of methyl amine (16 μL of a 40% solution in water, 0.25 mmol). The mixture was again stirred at rt for 1 h and concentrated to dryness. The residue was dissolved in methanol (1 mL), filtered through an octyl solid phase extraction tube and subjected to HPLC purification with a gradient elution from 10% to 90% acetonitrile in water to afford 33 mg (70%) of the desired product. 1H NMR (300 MHz, CD2Cl2) δ 8.30 (d, 1H), 8.23 (s, 1H), 7.50 (d, 1H), 7.15-7.30 (m, 3H), 6.80 (t, 1H), 6.60 (s, 1H), 3.77 (s, 3H), 2.95 (br s, 6H), 1.70 (q, 2H), 1.32 (s, 6H), 0.85 (t, 3H). ES-MS m/z 426.2 (MH+); HPLC RT (min) 3.57.

reactant | 2-{[3-(1,1-dimethylpropyl)-1-(3-fluoro-2-methoxyphenyl)-1H-pyrazol-5-yl]amino}nicotinic acid | CC(CC)(C)C1=NN(C(=C1)NC1=C(C(=O)O)C=CC=N1)C1=C(C(=CC=C1)F)OC | C21H23FN4O3
reactant | oxalyl chloride | 0.13 mmol, 9 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl amine | CN | CH5N
reactant | CH3CN | 1 mL | CC#N | C2H3N
catalyst | dimethyl formamide | 1 drop | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-{[3-(1,1-dimethylpropyl)-1-(3-fluoro-2-methoxyphenyl)-1H-Pyrazol-5-yl]amino}-N,N-dimethylnicotinamide | 33 mg, 70% | CC(CC)(C)C1=NN(C(=C1)NC1=C(C(=O)N(C)C)C=CC=N1)C1=C(C(=CC=C1)F)OC | C23H28FN5O2
